### ISSUE TITLE
partial calc affected by tactics preceding it

### ISSUE THREAD

**Issue by kmill** [leanprover/lean4#4334]
### Description

Putting a tactic that does not change the goal (like a `have`) before a working `calc` can cause it to fail, if that `calc` is making use of the "partial calc" feature.

### Context

Reported by Heather Macbeth on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/.60have.60.20affects.20operation.20of.20.60calc.60/near/442398727).

### Steps to Reproduce

**Actual behavior:** In the following, the first `calc` works but the second doesn't.

**Expected behavior:** Both `calc`s work.

```lean
-- works
example {x y : Nat} : x + y ≤ 10 := by
  calc x + y ≤ 7 := sorry
    _ = 8 := sorry
/-
unsolved goals
x y : Nat
⊢ 8 ≤ 10
-/

-- fails
example {x y : Nat} : x + y ≤ 10 := by
  have hk : x + y = 4 := sorry
  calc x + y ≤ 7 := sorry
    _ = 8 := sorry
/-
'calc' tactic failed, has type
  x + y ≤ 8
but it is expected to have type
  x + y ≤ 10
-/
```

### Versions

4.9.0 commit f65e3ae9859a4288b94b4a9fda93f406244d8dbc

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
